US07153815B2
A mixture of 3-ethoxy-2-(4-trifluoromethylphenyl hydrazono) propionic acid (0.3 g, 1 mmol), 5-aminomethyl-2-chloropyridine (0.21 g, 1.5 mmol), 1-[3-(dimethylamino) propyl]-3-ethylcarbodiimide hydrochloric acid salt (0.29 g, 1.5 mmol) and chloroform (10 ml) was left at room temperature overnight. The mixture was extracted with chloroform, washed 1N hydrochloric acid, a saturated sodium bicarbonate water and a saturated brine, dried on anhydrous sodium sulfate and then filtered. The residue obtained by concentrating the resulting filtrate was purified with a silica gel chromatography to obtain N-(6-chloro-3-pyridylmethyl)-3-ethoxy-2-(4-trifluoromethylphenyl hydrazono) propionic acid amide (Compound No. 170) (0.3 g, 0.72 mmol, 72%).

reactant | 3-ethoxy-2-(4-trifluoromethylphenyl hydrazono) propionic acid | 1 mmol, 0.3 g | C(C)OCC(C(=O)O)=NNC1=CC=C(C=C1)C(F)(F)F | C12H13F3N2O3
reactant | 5-aminomethyl-2-chloropyridine | 1.5 mmol, 0.21 g | NCC=1C=CC(=NC1)Cl | C6H7ClN2
reactant | 1-[3-(dimethylamino) propyl]-3-ethylcarbodiimide hydrochloric acid salt | 1.5 mmol, 0.29 g | Cl.CN(CCCN=C=NCC)C
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(6-chloro-3-pyridylmethyl)-3-ethoxy-2-(4-trifluoromethylphenyl hydrazono) propionic acid amide | 0.72 mmol, 0.3 g, 72% | ClC1=CC=C(C=N1)CNC(C(COCC)=NNC1=CC=C(C=C1)C(F)(F)F)=O | C18H18ClF3N4O2
